Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
naproxen / Lovenox
 
Attending: ___.
 
Chief Complaint:
CC: ___ post ERCP
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
HPI(4): 
Ms. ___ is a ___ female with hx of COPD/asthma (on 
3L
home O2), HTN, HLD, hypothyroidism, depression/anxiety, 
Takotsubo
cardiomyopathy ___, resolved), recent mechanical fall 
resulting
in L 10th rib fracture and L3 process fracture found to have CBD
dilation with choledocholithiasis on imaging presenting for 
ERCP,
now s/p sphincterotomy/sphincteroplasty and sludge extraction 
and
admitted for monitoring.

Ms. ___ reports intermittent ___ and periumbilical abdominal
pain with associated N/V over the past 3 months without 
jaundice.
Last episodes of emesis was 2d ago, non-bloody and non-bilious.
Reports intentional weight loss over this period while dieting.
Denies F/C, diarrhea/constipation, melena/hematochezia.

She was reaching over to pick up her dog on ___ when she fell 
and
struck her L-chest. She was taken to ___ where imaging
showed acute L lateral 10th rib fracture and L L3 transverse
process fracture as well as CBD dilation. LFTs were not checked.
She left AMA from the ED to take care of her dog. She
subsequently underwent ___ U/S on ___ at ___ that
demonstrated CBD dilation to 1.3 cm with a 4mm stone in the
distal CBD and cholelithiasis without acute cholecystitis. 

She presented ___ for ERCP, which showed a 1.4 cm CBD with
filling defects c/w sludge. A biliary sphincterotomy was
performed followed by a sphincteroplasty (from 8->9mm given
inability to safely make sufficiently long sphincterotomy) with
sludge removal. 

On arrival to the floor, Ms. ___ reports ___ epigastric
abdominal pain radiating to the back with associated nausea but
no emesis. Reports that her SOB/DOE are at baseline in the
setting of severe COPD. She denies F/C, CP, cough,
diarrhea/constipation, melena/hematochezia, dysuria/hematuria,
headaches, new rashes. 
 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
- COPD, on 5L NC at home. Continued smoker. Respiratory failure 
@ ___ on CPAP.  
- Smoker  
- MVA in ___ s/p back surgery with rod placement  
- PID, s/p ex lap many years ago  
- Cholelithiasis  
- Hypothyroidism  
- Hypertension  
- Hyperlipidemia  

 
Social History:
___
Family History:
mother - colon cancer, age ___
 
Physical Exam:
Admission exam:

24 HR Data (last updated ___ @ ___)
Temp: 98.3 (Tm 98.3), BP: 122/68, HR: 79, RR: 16, O2 sat: 95%, 
O2
delivery: 3L NC, Wt: 136 lb/61.69 kg  
GENERAL: NAD, sitting comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, ND, mild epigastric TTP without R/G
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
MSK: Lower extremities warm without edema
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

Discharge exam:
___ 1602 Temp: 97.9 PO BP: 133/78 Sitting HR: 92 RR: 18 O2 
sat: 91% O2 delivery: RA 

GENERAL: NAD, sitting comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, ND, mild tenderness to palpation in b/l upper 
quadrants, no R/G
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
MSK: Lower extremities warm without edema
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs:

WBC 13.4, Hgb 12.7, Plt 239
INR 1.1
BMP WNL (w/exception of gluc 68)
LFTs WNL
Lipase 33
Ca/Mg/Phos WNL

BCx (___): pending x 2

ERCP/EUS (___):
EUS: CBD dilated to 1.2 cm with rounded hyperechoic heterogenous
material 4-5mm in size with no shadowing, c/w stone
material/sludge. 
ERCP: CDB 14mm. L/R hepatic ducts and intrahepatic branches
mildly dilated. GB not well visualized. Filling defects c/w
sludge seen. Biliary sphincterotomy performed. Sphincteroplasty
with CRE balloon from 8mm to 9mm done given difficult angle and
folds making longer sphincterotomy unsafe. Biliary tree swept
with sludge removal. Final cholangiogram with no filling defects
in CBD.

___:
------------
___ U/S (___):
1. The distal common bile duct is dilated measuring 1.3 cm. A 4
mm stone is noted in the distal common duct. MRCP might be of
further consideration.
2. Cholelithiasis with no evidence of acute cholecystitis.

CT chest w/cont (___):
Left 10th rib fracture. No other acute findings.

CT A/P w/cont (___):
1. Acute left lateral 10th rib fracture and left L3 transverse
process fracture.
2. Common bile duct dilatation. MRCP with and without contrast 
is
recommended for further evaluation as an outpatient.

TTE (___):
The left atrium is mildly dilated. No atrial septal defect is
seen by 2D or color Doppler. The estimated right atrial pressure
is at least 15 mmHg. Left ventricular wall thickness, cavity 
size
and regional/global systolic function are normal (LVEF >55%). No
masses or thrombi are seen in the left ventricle. There is no
ventricular septal defect. Right ventricular chamber size and
free wall motion are normal. The diameters of aorta at the 
sinus,
ascending and arch levels are normal. The aortic valve leaflets
(3) are mildly thickened but aortic stenosis is not present.
Trace aortic regurgitation is seen. The mitral valve leaflets 
are
mildly thickened. There is no mitral valve prolapse. Mild (1+)
mitral regurgitation is seen. The tricuspid valve leaflets are
mildly thickened. There is moderate pulmonary artery systolic
hypertension. There is a small pericardial effusion. There are 
no
echocardiographic signs of tamponade.   

Discharge plans:

___ 07:11AM BLOOD WBC-12.8* RBC-3.97 Hgb-12.0 Hct-37.7 
MCV-95 MCH-30.2 MCHC-31.8* RDW-13.1 RDWSD-45.8 Plt ___
___ 07:11AM BLOOD Glucose-117* UreaN-10 Creat-0.7 Na-145 
K-4.4 Cl-106 HCO3-28 AnGap-11
___ 07:11AM BLOOD ALT-29 AST-35 AlkPhos-93 TotBili-0.5
___ 07:11AM BLOOD Calcium-8.5 Phos-3.8 Mg-1.5*
 
Brief Hospital Course:
Ms. ___ is a ___ female with hx of COPD/asthma (on 
3L
home O2), HTN, HLD, hypothyroidism, depression/anxiety, 
Takotsubo
cardiomyopathy ___, resolved), recent mechanical fall 
resulting
in L 10th rib fracture and L3 process fracture found to have CBD
dilation with choledocholithiasis on imaging presenting for 
ERCP,
now s/p sphincterotomy/sphincteroplasty and sludge extraction,
admitted for monitoring.

# Abdominal pain:
# Nausea:
# Leukocytosis:
# Cholelithiasis/choledocholithiasis:
Describes 3 months of intermittent abdominal pain with N/V,
likely secondary to symptomatic cholelithiasis and
choledocholithiasis. ERCP performed ___ showed CBD dilation 
with
sludge, suggestive of prior stones, although nl LFTs suggest
stone may have passed. Sphincterotomy and sphincteroplasty
performed. Patient complaining of moderate abdominal pain/nausea
post-procedurally, but benign exam makes perforation unlikely 
and
nl lipase 2x exonerates post-ERCP pancreatitis. Mild 
leukocytosis is
likely stress response to procedure and it improved modestly on 
HOD2 but not yet resolved; low suspicion for cholangitis or 
cholecystitis in absence of fevers. Blood cultures obtained 
which showed no growth to date (though not final) prior to 
discharge.
Pain was adequately controlled with dilaudid IV followed by 
tramadol and APAP prn for pain which pt has at home as well. 
Abdominal exam improved prior to discharge with minimal ongoing 
tenderness to palpation but ok'd by ERCP for discharge home.

# COPD:
Stable on home 3L NC. Continued home Spiriva, Advair in place of 
home symbicort (NF), held home Trelegy (NF) and was given 
duonebs q6h PRN

# HTN:
Normotensive. Home BP meds ___ with plans to 
restart on the day following discharge. 

# HLD:Home atorvastatin

# Hypothyroidism: Home levothyroxine

# Depression/anxiety: Medications reviewed with patients PCP; 
plan to continue home home bupropion 50mg daily, buspirone 15mg 
TID, venlafaxine 75mg ER TID (odd dosing, but confirmed with 
patient and fill history).

Transitional issues:
[ ] ___ with local general surgery providers for gallbladder 
removal
[ ] Repeat CBC in 1 week to ensure resolution of mild 
leukocytosis

> 30 minutes were spent in discharge planning and coordination 
of care on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Venlafaxine XR 75 mg PO TID 
2. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
3. BuPROPion 100 mg PO DAILY 
4. Spironolactone 25 mg PO BID 
5. BusPIRone 15 mg PO TID 
6. Diltiazem Extended-Release 240 mg PO DAILY 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Losartan Potassium 100 mg PO DAILY 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Trelegy Ellipta (fluticasone-umeclidin-vilanter) 100-62.5-25 
mcg inhalation daily 
11. Atorvastatin 40 mg PO QPM 
12. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth Every 8 hours Disp #*6 
Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM  
3.  BuPROPion 100 mg PO DAILY  
4.  BusPIRone 15 mg PO TID  
5.  Diltiazem Extended-Release 240 mg PO DAILY  
6.  Levothyroxine Sodium 100 mcg PO DAILY  
7.  Losartan Potassium 100 mg PO DAILY  
8.  Spironolactone 25 mg PO BID  
9.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
10.  Tiotropium Bromide 1 CAP IH DAILY  
11.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  
12.  Trelegy Ellipta (fluticasone-umeclidin-vilanter) 
100-62.5-25 mcg inhalation daily  
13.  Venlafaxine XR 75 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholelithiasis
Choledocholithiasis s/p ERCP
Galllstones

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital for further evaluation of gallstones in 
the liver drainage system. You underwent a specialized procedure 
(ERCP) to open the drainage system and you improved.

You developed some abdominal pain after the procedure which 
resolved with pain medication and time. 

It is very important that you follow up with your local doctors 
in ___ to arrange for gallbladder removal in the near 
future. You can resume your normal medications tomorrow morning 
as you have been.

If you develop fevers, chills, chest pain, worsening abdominal 
pain, nausea, vomiting please call your doctor or return to the 
emergency department. 

It was a pleasure taking care of you! 

 
Followup Instructions:
___